US07851473B2
(2) N-(6-Chloropyridin-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (6-chloropyridin-3-yl)carbamate (272 mg, 0.893 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and diisopropylethylamine (0.156 ml, 0.893 mmol) in dimethylsulfoxide (2.7 ml) was stirred at 70° C. for 15 hours. Water was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to obtain the desired product (165 mg, 50.7%) as a solid.

reactant | 2,2,2-trichloroethyl (6-chloropyridin-3-yl)carbamate | 0.893 mmol, 272 mg | ClC1=CC=C(C=N1)NC(OCC(Cl)(Cl)Cl)=O | C8H6Cl4N2O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.893 mmol, 0.156 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.7 ml | CS(=O)C | C2H6OS
product | N-(6-Chloropyridin-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 165 mg, 50.7% | ClC1=CC=C(C=N1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C18H17ClN6OS
